US07160882B2
b) tert-butyl {3-[2-(1-hydroxy-1-propyl-butyl)-phenylamino]-1,1-dimethyl-propyl}-carbamate
1.40 g (22.27 mmol) sodium cyanoborohydride are added to a solution of 3.10 g (14.05 mmol) 4-(2-amino-phenyl)-heptan-4-ol and 3.60 g (17.88 mmol) tert-butyl (1,1-dimethyl-3-oxo-propyl)-carbamate in MeOH (40 mL) and AcOH (6 mL). The mixture is stirred for 16 h at RT, diluted with EtOAc and washed with 0.5 M aqueous KHSO4 and saturated. aqueous NaCl , dried with sodium sulphate and evaporated down i. vac. The crude product is used in the next reaction step without any further purification.

reactant | sodium cyanoborohydride | 22.27 mmol, 1.40 g | C(#N)[BH3-].[Na+]
reactant | 4-(2-amino-phenyl)-heptan-4-ol | 14.05 mmol, 3.10 g | NC1=C(C=CC=C1)C(CCC)(CCC)O | C13H21NO
reactant | tert-butyl (1,1-dimethyl-3-oxo-propyl)-carbamate | 17.88 mmol, 3.60 g | CC(CC=O)(C)NC(OC(C)(C)C)=O | C10H19NO3
solvent | MeOH | 40 mL | CO | CH4O
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl {3-[2-(1-hydroxy-1-propyl-butyl)-phenylamino]-1,1-dimethyl-propyl}-carbamate | OC(CCC)(CCC)C1=C(C=CC=C1)NCCC(C)(C)NC(OC(C)(C)C)=O | C23H40N2O3
